US08461181B2
A mixture of 1.16 g of 2-(3-benzyloxypyridin-4-yl-)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine, 60 ml of ethanol and 0.12 g of 5% palladium charcoal was stirred for 3 hours at room temperature under a hydrogen atmosphere of about 1 atm. The mixture was filtrated through Celite (registered trademark), and the filtrate was concentrated under reduced pressure, to obtain 0.27 g of 4-(3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine-2-yl]-pyridin-3-ol (hereinafter, referred to as present active compound 215).

reactant | 2-(3-benzyloxypyridin-4-yl-)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 1.16 g | C(C1=CC=CC=C1)OC=1C=NC=CC1C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C20H15F3N4O
catalyst | palladium charcoal | 0.12 g | [Pd] | Pd
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-(3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine-2-yl]-pyridin-3-ol | 0.27 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=NC=C2)O | C13H9F3N4O
